Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Neosporin / Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
Primary duodenal cancer
 
Major Surgical or Invasive Procedure:
1. Pylorus preserving pancreaticoduodenectomy (Whipple
    procedure).
2. Feeding jejunostomy.

 
History of Present Illness:
Mrs. ___ is an otherwise generally healthy ___ woman 
found recently to be harboring bleeding polypoid mass in the 
duodenum and is a biopsy-proven duodenal cancer. She underwent 
preoperative evaluation including axial CT angiography staging, 
and was found to have resectable disease proposed for resection 
by radical pancreaticoduodenectomy. She understood this and
asked to proceed by providing her written informed consent after 
an exhaustive discussion of the goals, risks and benefits of the 
procedure. These included, but were not limited to, bleeding, 
infection, need for reoperation, recurrent metastatic or 
persistent cancer, postoperative pancreatic endocrine and 
exocrine insufficiency, anastomotic pancreatic biliary 
gastrointestinal stricture leakage, dehiscence, need for 
reoperation. After a full discussion, a geriatrics consult, was 
called given her age of ___ and prepared her for operation.

 
Past Medical History:
Left breast ca txed w/lumpectomy ___, GERD, paroxysmal SVT, COPD 
with h/o stable lung nodules, osteoporosis, bilateral OA, h/o 
remote kidney stones and L wrist and R thumb fx, 3 cm polypoid 
mass in the second portion of her duodenum w/periduodenal 
lymphadenopathy.

 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
Vital Signs stable, afebrile.
General:  Ms. ___ is a well appearing woman who is in no 
acute distress. Her affect shows a good range of motion.  Her 
thought process are linear and she is able to engage in 
conversation easily.
HEENT:  Tympanic membranes are visualized bilaterally. 
Postcataract changes are noted bilaterally with extraocular 
muscles intact.  Posterior pharynx is clear.  Mucous membranes 
are moist.  She wears a partial upper and lower dental plate.
Neck:  Supple without thyromegaly or carotid bruits.
Heart:  Regular rate and rhythm without ectopy or murmur.
Lungs:  Good air movement to the bilateral bases.  No rales, 
rhonchi, wheezes or localizing sounds.
Abdomen:  Protuberant, but soft, approriately tender around 
incision with normal active bowel sounds in all four quadrants. 
Wound clean, dry and intact.
Extremities:  No edema.  Strong dorsalis pedis pulses palpated
bilaterally.  Toenail care is excellent.  No open lesions on the
plantar dorsal surfaces.
Musculoskeletal:  Bilateral OA changes noted of the hands.  No
other active joint effusions.  Range of motion is well 
preserved.
Strength is ___ in the upper and lower extremities with no focal
weakness.
Neurologic:  Plantar reflexes are downgoing.  No tremor, 
rigidity
or cogwheeling.  Romberg is negative with eyes opened and slight
side to side sway with eyes closed.  Gait is otherwise grossly
unimpaired.
 
Pertinent Results:
___ 06:07AM BLOOD WBC-11.6* RBC-3.58* Hgb-10.5* Hct-31.8* 
MCV-89 MCH-29.3 MCHC-33.0 RDW-19.6* Plt ___
___ 06:07AM BLOOD Glucose-167* UreaN-7 Creat-0.5 Na-139 
K-3.0* Cl-101 HCO3-29 AnGap-___: Pt. admitted for Whipple procedure due to primary duodenal 
cancer. For fuller details, please see operative note. Patient 
was transferred to PACU without complications and later brought 
to the floor without incident.
___: Pt.'s maintenance IV fluids reduced to 75 cc/hr. 
Otherwise, no events.
___: Pt. put on PCA for pain with epidural removed. 
___: Foley and NGT discontinued. Diet advanced to sips. ___ and 
social work consults called.
___: Pt. advanced to clears and tube feeds begun. CVL 
discontinued and placed on po protonix.
___: Telemetry discontinued and pt. placed on po meds. Pt. hep 
locked. Tube feeds discontinued.
___: Pt. advanced to reg. diet. Protonix increased. JP amylase 
drawn. 
___: JP drain discontinued. Antibiotics stopped.
___: JP drain site stitched with one ___ silk stitch. Pt. 
discharged with strict instructions for followup.
 
Discharge Medications:
1. One Touch UltraSoft Lancets     Misc Sig: One (1) Lancet 
Miscellaneous ASDIR for glucometer testing.
Disp:*1 box* Refills:*2*
2. One Touch Ultra Test     Strip Sig: One (1) strip In ___ 
___.
Disp:*100 Strips* Refills:*2*
3. Alcohol Pads     Pads, Medicated Sig: One (1) pad Topical 
ASDIR for glucose testing.
Disp:*1 box* Refills:*2*
4. Insulin Syringe Ultrafine ___ mL 29 x ___  Syringe Sig: One 
(1) Injection Miscellaneous ASDIR.
Disp:*1 box* Refills:*1*
5. Lantus 100 unit/mL Solution Sig: Twelve (12) Units 
Subcutaneous at bedtime: Or as as directed by MD/NP.
Disp:*1 vial* Refills:*2*
6. Humalog 100 unit/mL Solution Sig: One (1) Injection 
Subcutaneous ASDIR: As directed per Humalog insulin sliding 
scale.
Disp:*1 vial* Refills:*1*
7. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
8. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
9. Ibandronate 150 mg Tablet Sig: One (1) Tablet PO once a 
month.  
10. Ipratropium-Albuterol ___ mcg/Actuation Aerosol Sig: ___ 
Puffs Inhalation Q6H (every 6 hours) as needed.  
11. Femara 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  
12. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
14. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q3H (every 
3 hours) as needed for pain.
Disp:*70 Tablet(s)* Refills:*0*
15. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.  
16. Medications
Please continue to take all your other home medications as 
instructed by your primary care provider.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary duodenal cancer

 
Discharge Condition:
Stable.

 
Discharge Instructions:
Please have the stitch around your JP site removed within a 
week. Call Dr. ___ at ___ for an earlier 
appointment than the one you were scheduled for if that is 
necessary.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:

*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___